US04612325
A solution of 300 mg of 5-benzoyl-6-methylthio-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml of isoamyl alcohol is saturated with hydrogen chloride. After 24 hours, the excess alcohol is distilled off in vacuo and the residue purified by chromatography on alumina, to yield isoamyl 5-benzoyl-6-methylthio-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate.

reactant | 5-benzoyl-6-methylthio-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 300 mg | C(C1=CC=CC=C1)(=O)C1=C(C=C2N1CCC2C(=O)O)SC | C16H15NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | isoamyl alcohol | 5 ml | C(CC(C)C)O | C5H12O
product | isoamyl 5-benzoyl-6-methylthio-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=C(C=C2N1CCC2C(=O)OCCC(C)C)SC | C21H25NO3S
